US06689922B1
4-{2-[3-(7-Hydroxy-7-methyloct-1-enyl)phenyl]vinyl}-benzene-1,2-diol
In a manner similar to Example 3(i), by reacting 166 mg (0.286 mmol) of 8-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-2-methyloct-7-en-2-ol with 0.63 ml of tetrabutylammonium fluoride 1M/THF, after purification on a silica column (ethyl acetate 45-heptane 55), white crystals (m=65 mg; Y=64%) are obtained. m.p.=116-8° C.

reactant | 8-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxy)phenyl]vinyl}phenyl)-2-methyloct-7-en-2-ol | 0.286 mmol, 166 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1O[Si](C)(C)C(C)(C)C)C=CC=1C=C(C=CC1)C=CCCCCC(C)(O)C | C35H56O3Si2
reactant | tetrabutylammonium fluoride | 1M, 0.63 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 4-{2-[3-(7-Hydroxy-7-methyloct-1-enyl)phenyl]vinyl}-benzene-1,2-diol | OC(CCCCC=CC=1C=C(C=CC1)C=CC=1C=C(C(=CC1)O)O)(C)C | C23H28O3
